2171-09-01 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2171-8-31**] 10:01 AM
 CHEST PAIN - At [**2171-8-31**] 10:01 AM
 NON-INVASIVE VENTILATION - START [**2171-8-31**] 10:05 AM
 BLOOD CULTURED - At [**2171-8-31**] 02:26 PM
   set 1
   [**8-31**]:
   - Still on Nitro drip at 9mg/hr, holding Imdur until tomorrow morning
   when Nitro drip will be weaned off.
   - 19:00 - desat recently to 91% on 9L so put on non-rebreather.
   Episode of chest tightness, shortness of breath, diaphoresis; placed on
   CPAP, uptitrated to 12mg/hr Nitro drip but still BP 140's and
   tachycardic.  EKG showed interval change of downsloping ST depressions
   in lateral leads.  Given 2mg Morphine with resolution of chest pain and
   resolution of down-sloping ST depressions.
   - 20:00 - dyspnea and minimal chest pressure, repeat EKG with
   downsloping ST depressions again in V6.  Gave 80mg statin, Lopressor
   5mg IV x2, Morphine 2mg again, mucomyst.  CXR showed moderate pulmonary
   edema.
   -22:00 - Respiratory distress, 93% on NRB and 6L NC.  ABG showed pH
   7.23, respiratory acidosis and metabolic alkalosis.  Patient placed on
   CPAP, given Nifedipine 60mg, Imdur 30mg, Labetalol drip at 5mg which
   was subsequently d/c'ed, Lasix drip 20mg/hr, Nitro drip at 20mg/hr or
   4.8mcg/kg/hr?.  Lasix drip and Nitro drip were concentrated fully by
   pharmacy to increase potency.  CEs sent.
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 450 units/hour
   Nitroglycerin - 1.45 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-8-31**] 09:30 AM
   Furosemide (Lasix) - [**2171-8-31**] 05:28 PM
   Heparin Sodium - [**2171-8-31**] 07:23 PM
   Metoprolol - [**2171-8-31**] 08:25 PM
   Morphine Sulfate - [**2171-8-31**] 09:09 PM
   Labetalol - [**2171-8-31**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-1**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 79 (60 - 89) bpm
   BP: 103/47(57) {93/33(53) - 155/73(88)} mmHg
   RR: 14 (10 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                    435 mL
                                                                    242 mL
   PO:
             TF:
   IVF:
                                                                    435 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                    115 mL
   Urine:
                                                                  2,130 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,695 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (388 - 2,933) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.23/77.[**Numeric Identifier 96**]/69/27/1
   Ve: 7.4 L/min
   PaO2 / FiO2: 115
   Physical Examination
   GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of just above clavicle.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Harsh systolic murmur loudest at RUSB, and 4/6 systolic
   murmur at apex. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Bilateral crackles halfway up the
   bases. No wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Warm, well perfused. 2+ LE edema bilaterally.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   206 K/uL
   8.8 g/dL
   206 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.1 mEq/L
   80 mg/dL
   100 mEq/L
   138 mEq/L
   28.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2171-8-31**]  10:07 AM
                             [**2171-8-31**]  10:34 AM
                             [**2171-8-31**]  04:58 PM
                             [**2171-8-31**]  10:01 PM
                             [**2171-9-1**]  01:50 AM
   WBC
   8.6
   Hct
   28.5
   Plt
   206
   Cr
   2.0
   2.0
   TropT
   0.03
   0.04
   0.04
   TCO2
   30
   34
   Glucose
   77
   206
   Other labs: PT / PTT / INR:14.0/149.6/1.2, CK / CKMB /
   Troponin-T:72/4/0.04, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:6.4 mg/dL
   Imaging: CXR [**8-31**]
   Moderate pulmonary edema and HF
   Microbiology: BCx [**8-31**] pending
   Assessment and Plan
 [**Age over 90 382**] yo M with a history of dCHF, severe CAD s/p CABG who presents with
   worsening dyspnea on exertion, associated with orthopnea, and lower
   extremity edema.
   .
   .
   # PUMP:  Echo from [**2171-1-27**] showed normal systolic function with
   diastolic dysfunction. Patient presents volume overloaded, concerning
   for acute exacerbation of chronic diastolic heart failure. Potential
   etiologies include medication non compliance, ischemia, infection.
   Patient has new productive cough, though no fevers or chills. No CP.
   Has been taking medications as prescribed, though he has not been
   taking his imdur recently.
   -lasix IV bid
   -d/c nitro gtt
   -restart imdur 90mg po daily
   -obtain sputum culture, blood cultures, UA
   -follow up final read of CXR
   -rule out ischemia
   .
   # RHYTHM:  Currently in NSR.
   -monitor on telemetry
   .
   # CORONARIES:  Patient has known severe CAD s/p CABG and multiple PCIs.
   Denies CP, or usual anginal symptoms. EKG unchanged from baseline.
   -rule out MI
   -continue ASA, Clopidogrel, Carvedilol, Atorvastatin
   -Patient has ACEI listed as allergy [**12-31**] hyperkalemia
   .
   #  Acute on Chronic renal failure: Current Cr 2.3. Baseline 1.3. Likely
   [**12-31**] poor forward flow in the setting of acute exacerbation of diastolic
   heart failure. Continue CHF management as above, and would expect ARF
   to resolve.
   .
   #  Normocytic Anemia: Patient has known chronic anemia at baseline.
   Followed by Heme as outpatient, for Epo injections.
   -continue to monitor
   .
   #  DM2:
   -SSI
   -qid fingersticks
   -diabetic diet
   .
   #  Glaucoma: Continue outpatient eye drops
   .
   FEN:  Cardiac, diabetic diet. No IV fluids. Replete lytes PRN.
   .
   ACCESS: PIV x2.
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SQ
   -Pain management with  tylenol PRN
   -Bowel regimen with  colace, senna
   .
   CODE: FULL -confirmed with patient
   .
   COMM: wife [**Name (NI) 9198**] [**Telephone/Fax (1) 10464**]
   .
   DISPO: CCU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2171-8-31**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2171-09-01 08:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2171-8-31**] 02:26 PM
 Last night, desaturated to 91% on 9L so placed on NRB.  Had chest
   tightness, SOB, diaphoresis, placed on CPAP.  BP 140
s and HR high
   80
s, uptitrated Nitro drip.  EKG showed interval change of downsloping
   ST depressions in lateral leads.  Given 2mg Morphine with resolution of
   chest pain and resolution of down-sloping ST depressions.
 20:00
 Episode of dyspnea and chest pressure, repeat EKG with
   downsloping ST depressions in V6.  Gave 80mg statin, Lopressor 5mg IV
   x2, Morphine 2mg again, mucomyst.  CXR showed moderate pulmonary edema.
 22:00 - Respiratory distress, 93% on NRB and 6L NC.  ABG as below,
   findings consistent with respiratory fatigue and alveolar edema.
   Patient placed on CPAP, given Nifedipine 60mg, Imdur 30mg, Labetalol
   drip at 5mg which was subsequently d/c'ed, Lasix drip 20mg/hr, Nitro
   drip at 20mg/hr.  Lasix drip and Nitro drip subsequently concentrated
   fully by pharmacy to increase potency.  CEs sent.
 During night symptoms resolved. Slept well.
 At 7:30 complaining of mild chest pain on the  left apex, no SOB/n/v,
   palpitations, he refers to it a muscle related pain with movement.
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 450 units/hour
   Nitroglycerin - 1.45 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-8-31**] 09:30 AM
   Furosemide (Lasix) - [**2171-8-31**] 05:28 PM
   Heparin Sodium - [**2171-8-31**] 07:23 PM
   Metoprolol - [**2171-8-31**] 08:25 PM
   Morphine Sulfate - [**2171-8-31**] 09:09 PM
   Labetalol - [**2171-8-31**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-1**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 79 (60 - 89) bpm
   BP: 103/47(57) {93/33(53) - 155/73(88)} mmHg
   RR: 14 (10 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                    435 mL
                                                                    244 mL
   PO:
             TF:
   IVF:
                                                                    435 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                    115 mL
   Urine:
                                                                  2,130 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,695 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (388 - 730) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.23/77.[**Numeric Identifier 96**]/69/27/1
   Ve: 7.4 L/min
   PaO2 / FiO2: 115
   Physical Examination
   GENERAL: Alert, interactive, on facemask breathing comfortably, in NAD
   HEENT:  JVP up to mandible at 45 degrees
   CARDIAC: RRR, GII systolic murmer ar RUSB, GIII systolic murmer at apex
   LUNGS: Rales at bases and mid lung fields b/l, no wheezes or rhonchi.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: 1+ LE edema bilaterally.
   Labs / Radiology
   206 K/uL
   8.8 g/dL
   206 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.1 mEq/L
   80 mg/dL
   100 mEq/L
   138 mEq/L
   28.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2171-8-31**]  10:07 AM
                             [**2171-8-31**]  10:34 AM
                             [**2171-8-31**]  04:58 PM
                             [**2171-8-31**]  10:01 PM
                             [**2171-9-1**]  01:50 AM
   WBC
   8.6
   Hct
   28.5
   Plt
   206
   Cr
   2.0
   2.0
   TropT
   0.03
   0.04
   0.04
   TCO2
   30
   34
   Glucose
   77
   206
   Other labs: PT / PTT / INR:14.0/149.6/1.2, CK / CKMB /
   Troponin-T:72/4/0.04, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
 [**Age over 90 382**] yo M with a history of dCHF, severe CAD s/p CABG who presents with
   worsening dyspnea on exertion, associated with orthopnea, and lower
   extremity edema.
   .
   # PUMP:  Echo from [**2171-1-27**] showed normal systolic function with
   diastolic dysfunction. Patient presents with acute exacerbation of
   chronic diastolic heart failure. Potential etiologies include
   medication non compliance, ischemia, infection. Patient has new
   productive cough, though no fevers or chills. Has been taking
   medications as prescribed, though he has not been taking his imdur
   recently.
   -Continue Lasix drip
   -Initiate Diuril
   -D/C Nitro gtt
   -Increase Imdur 90mg po to twice daily
   -Continue Nifedipine
   -Obtain sputum culture, blood cultures, UA
   -TTE for tomorrow to evaluate cardiac function; NPO at midnight
   -Consider RH cath tomorrow if not improve fluid status
   .
   # RHYTHM:  Currently in NSR, monitor on telemetry.
   .
   # CORONARIES:  Patient has known severe CAD s/p CABG and multiple PCIs.
   Denies CP, or usual anginal symptoms. Dynamic EKG ST changes yesterday
   during hypoxic episode with increased demand, cardiac enzymes flat x3.
   -Continue ASA, Clopidogrel, Carvedilol, Atorvastatin
   -Patient has ACEI listed as allergy [**12-31**] hyperkalemia
   -d/c Heparin as unlikely ACS
   -Decrease statin to home dose as unlikely ACS
   .
   #  Acute on Chronic renal failure: Current Cr elevated from baseline
   1.3, likely [**12-31**] poor forward flow in the setting of acute exacerbation
   of diastolic heart failure. Anticipate ARF to resolve with diuresis.
   .
   #  Normocytic Anemia: Patient has known chronic anemia at baseline.
   Followed by Heme as outpatient, for Epo injections.
   -continue to monitor
   .
   #  DM2:  Continue SSI.
   .
   #  Glaucoma: Continue outpatient eye drops
   ICU Care
   Nutrition: Cardiac heart healthy/Low sodium/diabetic diet.
   Glycemic Control:
   Lines:
   20 Gauge - [**2171-8-31**] 11:10 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:
   Comments: Bowel regimen with  colace, senna//Pain management with
   tylenol PRN
   Communication:  Comments:  wife [**Name (NI) 9198**] [**Telephone/Fax (1) 10464**]
   [**Name2 (NI) 66**] status:  FULL (confirmed)
   Disposition:  CCU care

2171-09-02 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-9-1**] 11:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-2**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.2
C (95.4
   Tcurrent: 35
C (95
   HR: 66 (56 - 79) bpm
   BP: 118/50(66) {83/34(48) - 133/72(85)} mmHg
   RR: 14 (11 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                    695 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    695 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    674 mL
                                                                    760 mL
   Urine:
                                                                    674 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     21 mL
                                                                   -692 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 837 (505 - 837) mL
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 95%
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.34/52/65/30/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 108
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   212 K/uL
   8.9 g/dL
   159 mg/dL
   2.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   96 mg/dL
   99 mEq/L
   140 mEq/L
   29.2 %
   7.1 K/uL
        [image002.jpg]
                             [**2171-8-31**]  10:07 AM
                             [**2171-8-31**]  10:34 AM
                             [**2171-8-31**]  04:58 PM
                             [**2171-8-31**]  10:01 PM
                             [**2171-9-1**]  01:50 AM
                             [**2171-9-1**]  09:41 AM
                             [**2171-9-1**]  04:14 PM
                             [**2171-9-1**]  05:39 PM
                             [**2171-9-1**]  09:03 PM
                             [**2171-9-2**]  04:07 AM
   WBC
   8.6
   7.1
   Hct
   28.5
   29.2
   Plt
   206
   212
   Cr
   2.0
   2.0
   2.5
   2.4
   TropT
   0.03
   0.04
   0.04
   0.05
   TCO2
   30
   34
   29
   29
   Glucose
   77
   [**Telephone/Fax (3) 10488**]
   Other labs: PT / PTT / INR:12.6/31.7/1.1, CK / CKMB /
   Troponin-T:74/4/0.05, Differential-Neuts:79.9 %, Lymph:12.6 %, Mono:7.0
   %, Eos:0.3 %, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2171-8-31**] 03:00 PM
   18 Gauge - [**2171-9-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2171-09-02 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shortness of breath
   24 Hour Events:
   -pt with episode of SOB last night, wheezy on exam.  Improved with
   nebs, Ativan.  ABG not significantly changed from prior.  Started on
   CPAP for increased comfort o/n, no further distress.  Pressures were
   elevated during the episode, therefore nitro gtt started, pressures
   improved, weaned off of nitro gtt and imdur held for hypotension.
   -UOP between 60-100/hr on lasix gtt (increased to 40)
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-9-1**] 11:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-2**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.2
C (95.4
   Tcurrent: 35
C (95
   HR: 66 (56 - 79) bpm
   BP: 118/50(66) {83/34(48) - 133/72(85)} mmHg
   RR: 14 (11 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                    695 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    695 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    674 mL
                                                                  1,060 mL
   Urine:
                                                                    674 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     21 mL
                                                                   -992 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 837 (505 - 837) mL
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 95%
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.34/52/65/30/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 108
   Physical Examination
   GENERAL: Alert, interactive, on venti mask breathing comfortably, in
   NAD
   CARDIAC: RRR, 2/6 systolic murmur ar RUSB
   LUNGS: CTA anteriorly, tubular breath sounds at right base
   ABDOMEN: Soft, NTND.
   EXTREMITIES: no LE edema
   Labs / Radiology
   212 K/uL
   8.9 g/dL
   159 mg/dL
   2.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   96 mg/dL
   99 mEq/L
   140 mEq/L
   29.2 %
   7.1 K/uL
        [image002.jpg]
                             [**2171-8-31**]  10:07 AM
                             [**2171-8-31**]  10:34 AM
                             [**2171-8-31**]  04:58 PM
                             [**2171-8-31**]  10:01 PM
                             [**2171-9-1**]  01:50 AM
                             [**2171-9-1**]  09:41 AM
                             [**2171-9-1**]  04:14 PM
                             [**2171-9-1**]  05:39 PM
                             [**2171-9-1**]  09:03 PM
                             [**2171-9-2**]  04:07 AM
   WBC
   8.6
   7.1
   Hct
   28.5
   29.2
   Plt
   206
   212
   Cr
   2.0
   2.0
   2.5
   2.4
   TropT
   0.03
   0.04
   0.04
   0.05
   TCO2
   30
   34
   29
   29
   Glucose
   77
   [**Telephone/Fax (3) 10488**]
   Other labs: PT / PTT / INR:12.6/31.7/1.1, CK / CKMB /
   Troponin-T:74/4/0.05, Differential-Neuts:79.9 %, Lymph:12.6 %, Mono:7.0
   %, Eos:0.3 %, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
 [**Age over 90 382**] yo M with a history of dCHF, severe CAD s/p CABG who presents with
   worsening dyspnea on exertion, associated with orthopnea, and lower
   extremity edema.
   .
   # PUMP:  Echo from [**2171-1-27**] showed normal systolic function with
   diastolic dysfunction. Patient presents with acute exacerbation of
   chronic diastolic heart failure. Potential etiologies include
   medication non compliance, ischemia, infection. Patient has new
   productive cough, though no fevers or chills.  Good diuresis o/n.
   -aim for negative 60-100 cc/hr
   -Continue Lasix drip at 40/hr
   -Continue diuril
   -D/C Nitro gtt
   -Continue Nifedipine (consider switching to hydralazine for better
   afterload reduction), imdur for goal MAP 90-100
   -TTE pending
   -Consider RH cath tomorrow if no improvement fluid status
   .
   # RHYTHM:  Currently in NSR, monitor on telemetry.
   .
   # CORONARIES:  Patient has known severe CAD s/p CABG and multiple PCIs.
   Denies CP, or usual anginal symptoms. Dynamic EKG ST changes yesterday
   during hypoxic episode with increased demand, cardiac enzymes flat x3.
   -Continue ASA, Clopidogrel, Carvedilol, Atorvastatin
   -Patient has ACEI/[**Last Name (un) 239**] listed as allergy [**12-31**] hyperkalemia
   -d/c Heparin as unlikely ACS
   .
   #  Acute on chronic renal failure: Current Cr elevated from baseline
   1.3, likely [**12-31**] poor forward flow in the setting of acute exacerbation
   of diastolic heart failure. Slight improvement overnight.  Anticipate
   ARF to resolve with diuresis.
   -continue diuresis as outlined above
   -follow creatinine
   .
   #  Normocytic Anemia: Patient has known chronic anemia at baseline.
   Followed by Heme as outpatient, for Epo injections.   Usually receives
   epo injection on Tuesday for hct <33, per pt report.
   -continue to monitor
   .
   #  DM2:  Continue SSI.
   .
   #  Glaucoma: Continue outpatient eye drops
   ICU Care
   Nutrition: Cardiac heart healthy/Low sodium/diabetic diet.
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2171-8-31**] 11:10 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: famotidine
   VAP:
   Comments: Bowel regimen with  colace, senna//Pain management with
   tylenol PRN
   Communication:  Comments:  wife [**Name (NI) 9198**] [**Telephone/Fax (1) 10464**]
   [**Name2 (NI) 66**] status:  FULL (confirmed)
   Disposition:  CCU care
   ------ Protected Section ------
   Attending Progress Note
   I have reviewed the Comprehensive Progress Note by Dr. [**First Name (STitle) 6984**] today and
   I concur with the history, physical examination, assessment and
   treatment plan.   Mr. [**Known lastname 10470**] is a [**Age over 90 382**] year old man with known diastolic
   heart failure who was admitted with an exacerbation of his symptoms.
   He is s/p CABG on two prior occasions.
   He has not made much progress over the past 24 hours.  He remains
   dyspneic and occasionally agitated.  His chest pain has continued
   intermittently and his diuresis has not been consistent with IV
   furosemide and hydrodiuril.
   We are currently continuing with efforts to obtain a more aggressive
   diuresis.
   He may require a right heart catheterization tomorrow to assess his
   fluid status and hemodynamics.  We are also monitoring him closely for
   the development of a pneumotic process.
   The treatment plan was discussed with the patient and family and all
   questions addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2171-9-2**] 21:22 ------

2171-09-03 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 Chest pain overnight.  O2 sat 89-92% on 15L mask with 6L NC.  EKG
   Obtained, 2mg IV Morphine adm, 0.25mg IV Ativan adm, and Nitro drip
   started, cardiac enzymes obtained.
 TRANSTHORACIC ECHO [**9-2**] showed preserved EF 55%, mild global RV free
   wall hypokinesis 2+MR, 1+TR, mild pulm HTN.
 Lasix drip 40mg/hr, diuresing about 100cc/hr.
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 40 mg/hour
   Nitroglycerin - 1.6 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2171-9-2**] 09:09 AM
   Heparin Sodium (Prophylaxis) - [**2171-9-2**] 04:30 PM
   Morphine Sulfate - [**2171-9-2**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-3**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 76 (54 - 84) bpm
   BP: 110/44(61) {97/39(54) - 141/95(104)} mmHg
   RR: 11 (11 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 68.8 kg
             Total In:
                                                                  1,180 mL
                                                                    175 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                    660 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                    610 mL
   Urine:
                                                                  2,670 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,490 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GENERAL: Alert, interactive, on venti mask breathing comfortably, in
   NAD
   HEENT:  HEENT:  JVP 11cm
   CV:  RRR, GII systolic murmer ar RUSB, GIII systolic murmer at apex
   LUNGS: Rales at lower lung fields b/l, tubular breath sounds at L lung
   base
   ABDOMEN: Soft, NTND.
   EXTREMITIES: no LE edema
   Labs / Radiology
   209 K/uL
   8.7 g/dL
   234 mg/dL
   2.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   107 mg/dL
   93 mEq/L
   136 mEq/L
   27.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2171-8-31**]  10:01 PM
                             [**2171-9-1**]  01:50 AM
                             [**2171-9-1**]  09:41 AM
                             [**2171-9-1**]  04:14 PM
                             [**2171-9-1**]  05:39 PM
                             [**2171-9-1**]  09:03 PM
                             [**2171-9-2**]  04:07 AM
                             [**2171-9-2**]  07:53 PM
                             [**2171-9-2**]  09:24 PM
                             [**2171-9-3**]  03:20 AM
   WBC
   8.6
   7.1
   7.1
   Hct
   28.5
   29.2
   27.5
   Plt
   [**Telephone/Fax (3) 10504**]
   Cr
   2.0
   2.5
   2.4
   2.6
   2.6
   TropT
   0.04
   0.05
   0.06
   TCO2
   34
   29
   29
   Glucose
   [**Telephone/Fax (3) 10505**]99
   234
   Other labs: PT / PTT / INR:12.9/28.0/1.1, CK / CKMB /
   Troponin-T:119/8/0.06, Differential-Neuts:79.9 %, Lymph:12.6 %,
   Mono:7.0 %, Eos:0.3 %, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:8.5 mg/dL
   Imaging: CXR [**9-2**]
   As compared to the previous radiograph, there is no relevant change.
   Moderate cardiomegaly, mild bilateral pleural effusions, unchanged
   extent of bilateral perihilar opacities with signs indicative of mild
   overhydration. No newly appeared focal parenchymal opacities.
   TTE [**9-2**]
   Preserved EF 55%, mild global RV free wall hypokinesis 2+MR, 1+TR, mild
   pulm HTN.
   Microbiology: GRAM STAIN (Final [**2171-9-2**]):
         >25 PMNs and >10 epithelial cells/100X field.  Gram stain
   indicates extensive contamination with upper respiratory secretions.
   Bacterial culture results are invalid. PLEASE SUBMIT ANOTHER SPECIMEN.
   Assessment and Plan
 [**Age over 90 382**] yo M with a history of dCHF, severe CAD s/p CABG who presents with
   worsening dyspnea on exertion, associated with orthopnea, and lower
   extremity edema.
   .
   # PUMP:  Echo from [**2171-1-27**] showed normal systolic function with
   diastolic dysfunction, echo [**9-2**] showed consistent findings. Patient
   presents with acute exacerbation of chronic diastolic heart failure.
   Potential etiologies include medication non compliance, ischemia,
   infection. Patient has new productive cough, though no fevers or
   chills.  Good diuresis o/n.  Nitro drip being d/c
ed today, being
   placed on long acting po Nitro.  Diuresing well with Bumex.
   -Aim for negative 100 cc/hr
   -Initiate Bumex drip at 0.5mg/hr, uptitrate as needed
   -Bumex bolus 2mg IV this morning with initiation of drip
   -D/C Lasix drip at 40/hr
   -Continue diuril; convert to po Diuril
   -Initiate Imdur at home dose
   -D/C Nitro drip
   -Continue Nifedipine (consider switching to hydralazine for better
   afterload reduction), imdur for goal MAP 90-100
   -Consider RH cath if no improvement fluid status; not necessary today
   as pt diuresed well on Bumex
   .
   # CORONARIES:  Patient has known severe CAD s/p CABG and multiple PCIs.
   Denies CP, or usual anginal symptoms. Dynamic EKG ST changes during
   hypoxic episode [**8-31**] with increased demand, cardiac enzymes flat x3.
   Chest pain overnight which resolved with Nitro, Morphine, nebs, ativan,
   no EKG changes, cardiac enzymes flat.
   -Continue ASA, Clopidogrel, Carvedilol, Atorvastatin
   -Switch from Nitro drip to home Imdur
   -Patient has ACEI/[**Last Name (un) 239**] listed as allergy [**12-31**] hyperkalemia
   .
   # RHYTHM:  Currently in NSR, monitor on telemetry.
   .
   # Acute on chronic renal failure: Current Cr elevated from baseline
   1.3, likely [**12-31**] poor forward flow in the setting of acute exacerbation
   of diastolic heart failure. Anticipate ARF to resolve with effective
   diuresis.
   -Continue diuresis as outlined above
   -follow creatinine
   .
   # Normocytic Anemia: Patient has known chronic anemia at baseline.
   Followed by Heme as outpatient, for Epo injections.   Usually receives
   epo injection on Tuesday for hct <33, per pt report.  Written for Epo.
   .
   #  DM2:  Continue SSI.
   .
   #  Glaucoma: Continue outpatient eye drops
   ICU Care
   Nutrition: Cardiac heart healthy/Low sodium/diabetic diet.
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2171-8-31**] 11:10 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: famotidine
   VAP:
   Comments: Bowel regimen with  colace, senna//Pain management with
   tylenol PRN
   Communication:  Comments:  wife [**Name (NI) 9198**] [**Telephone/Fax (1) 10464**]
   [**Name2 (NI) 66**] status:  FULL (confirmed)
   Disposition:  CCU care
   ------ Protected Section ------
   Attending Progress Note
   I have reviewed the Comprehensive Progress Note by Dr. [**First Name (STitle) **] today and I
   concur with the history, physical examination, assessment and treatment
   plan.  The physical examination is consistent with mine today.    Mr.
   [**Known lastname 10470**] is a [**Age over 90 382**] year old man with known diastolic heart failure who was
   admitted with an exacerbation of his symptoms.  He is s/p CABG on two
   prior occasions.
   Fortunately, he seems to have responded to the combination of
   bumetidine and hydrodiuril for diuresis and was negative 1.5L over the
   past 24 hours.  His breathing has improved as well.   He and his family
   also state that his hemocrit is generally maintain over 30% to avoid
   angina (with Epogen), and his Hct within the ICU has been closer to
   27.5.    Given his improved diuresis with intermittent angina, we will
   plan to transfuse 1 U PRBCs.
   Over the next 24 hours, we will continue ginger diuresis, pulmonary
   toilet, and attempt to increase his time in a chair to maximize his
   ventilations and tidal volumes.
   The treatment plan was discussed with the patient and family and all
   questions addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2171-9-3**] 19:45 ------

2171-09-04 07:34:00 Physician Resident Progress Note
TITLE: [**Known lastname 10470**], daily progress note
   Chief Complaint:
   Still some difficulty
   breathing
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2171-9-3**] 10:00 AM
   Pt denies chest pain/pressure. Shortness of breath still present, but
   improved. Patient congested with productive cough. No abdominal pain
   but feels very constipated this morning.
   No reported acute CP/SOB episodes over the past 24 hours.
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2171-9-3**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2171-9-3**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-4**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 76 (65 - 85) bpm
   BP: 112/41(59) {101/40(57) - 133/81(90)} mmHg
   RR: 15 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65 kg (admission): 68.8 kg
           Total In:
                                                                    854 mL
                                                                    274 mL
   PO:
                                                                    540 mL
           TF:
   IVF:
                                                                    314 mL
                                                                     19 mL
   Blood products:
   255 mL
   Total out:
                                                                  2,690 mL
                                                                    920 mL
   Urine:
                                                                  2,690 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,836 mL
                                                                   -647 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///34/
   Physical Examination
   GEN: NAD, resting in bed, breathing with relatively increased effort
   PULM: CTAB upper lung fields, some rales lower lung fields
   CV: RRR, III/VI SEM RUSB, III/VI apical systolic murmur
   ABD: soft, NT, ND
   EXTR: no edema appreciated
   Labs / Radiology
   212 K/uL
   8.7 g/dL
   151 mg/dL
   2.4 mg/dL
   34 mEq/L
   3.4 mEq/L
   122 mg/dL
   91 mEq/L
   138 mEq/L
   26.7 %
   6.8 K/uL
                             [**2171-9-1**]  09:41 AM
                             [**2171-9-1**]  04:14 PM
                             [**2171-9-1**]  05:39 PM
                             [**2171-9-1**]  09:03 PM
                             [**2171-9-2**]  04:07 AM
                             [**2171-9-2**]  07:53 PM
                             [**2171-9-2**]  09:24 PM
                             [**2171-9-3**]  03:20 AM
                             [**2171-9-3**]  07:59 PM
                             [**2171-9-4**]  03:01 AM
   WBC
   7.1
   7.1
   6.8
   Hct
   29.2
   27.5
   26.7
   Plt
   [**Telephone/Fax (3) 10525**]
   Cr
   2.5
   2.4
   2.6
   2.6
   2.5
   2.4
   TropT
   0.05
   0.06
   TCO2
   29
   29
   Glucose
   171
   159
   199
   234
   91
   151
   Other labs: PT / PTT / INR:12.9/28.0/1.1, CK / CKMB /
   Troponin-T:119/8/0.06, Differential-Neuts:79.9 %, Lymph:12.6 %,
   Mono:7.0 %, Eos:0.3 %, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:6.4 mg/dL
   Micro: +MRSA screen. Bld cx
s P. Sputum culture unable to process.
   Assessment and Plan
   [**Age over 90 382**] yo M with a history of dCHF, severe CAD s/p CABG who presents with
   worsening dyspnea on exertion, associated with orthopnea, and lower
   extremity edema. Has had episodes of CP/SOB while hospitalized,
   improved with nitro/morphine/Ativan combination at various times.
   .
   # PUMP:  Echo from [**2171-1-27**] showed normal systolic function with
   diastolic dysfunction, echo [**9-2**] showed consistent findings. Patient
   presents with acute exacerbation of chronic diastolic heart failure.
   Potential etiologies include medication non compliance, ischemia,
   infection. Patient has new productive cough, though no fevers or
   chills.  Very good diuresis yesterday & overnight on bumex drip.  Nitro
   drip was d/c
ed yesterday; was placed on long-acting PO Nitro.
   -Aim for negative 100 cc/hr urine output
   -Continue Bumex (bumetanide) drip at 0.5mg/hr, uptitrate as needed
   -Continue metolazone at 5mg [**Hospital1 **]
   -Continue Imdur at home dose = 90mg daily
   -Continue Nifedipine CR 30mg [**Hospital1 **] (consider switching to hydralazine for
   better afterload reduction)
   -Consider RH cath if no improvement fluid status; not necessary today
   as pt diuresed well on Bumex so will continue with Bumex drip
   -Decrease oxygen as tolerated by patient and SpO2
   .
   # CORONARIES:  Patient has known severe CAD s/p CABG and multiple PCIs.
   Denies CP, or usual anginal symptoms. Dynamic EKG ST changes during
   hypoxic episode [**8-31**] with increased demand, cardiac enzymes flat x3.
   -Continue ASA, Clopidogrel, Carvedilol, Atorvastatin, Imdur
   -Patient has ACEI/[**Last Name (un) 239**] listed as allergy [**12-31**] hyperkalemia
   .
   # RHYTHM:  Currently in NSR, monitor on telemetry.
   .
   # Acute on chronic renal failure: Current Cr elevated from baseline
   1.3, likely [**12-31**] poor forward flow in the setting of acute exacerbation
   of diastolic heart failure. Anticipate ARF will resolve with effective
   diuresis. Cr stable at 2.4 today.
   -Continue diuresis as outlined above
   -Check [**Hospital1 **] electrolytes
   -Follow creatinine
   .
   # Normocytic Anemia: Patient has known chronic anemia at baseline.
   Followed by Heme as outpatient, for Epo injections.   Usually receives
   epo injection on Tuesday for hct <33, per pt report.  Receiving Epo
   today. Hct stable/low today.
   -Check daily Hct
   .
   #  DM2:  Continue SSI.
   .
   #  Glaucoma: Continue outpatient eye drops
   .
   # Constipation:
   -made senna and colace standing orders
   -bisacodyl PR today
   -miralax today
   ICU Care
   Nutrition: Cardiac heart healthy/Low sodium/diabetic diet.
   Replete electrolytes PRN.
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2171-8-31**] 03:00 PM
   18 Gauge - [**2171-9-1**] 10:00 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: famotidine
   VAP:
   Comments: Bowel regimen with  colace, senna//Pain management with
   tylenol PRN
   Communication:  Comments: wife [**Name (NI) 9198**] [**Telephone/Fax (1) 10464**]
   [**Name2 (NI) 66**] status: FULL (confirmed)
   Disposition: CCU
   ------ Protected Section ------
   Attending Progress Note
   I have reviewed the Comprehensive Progress Note by Dr. [**Last Name (STitle) 10454**] today and
   I concur with the history, physical examination, assessment and
   treatment plan.  The physical examination is consistent with mine
   today.    Mr. [**Known lastname 10470**] is a [**Age over 90 382**] year old man with known diastolic heart
   failure who was admitted with an exacerbation of his symptoms.  He is
   s/p CABG on two prior occasions.
   He continues to respond to the combination of bumetidine and
   hydrodiuril for diuresis and was again negative 1.8L over the past 24
   hours.  His breathing has improved as well and he spent most of the
   morning is a chair.
   Over the next 24 hours, we will continue ginger diuresis.
   The treatment plan was discussed with the patient and family and all
   questions addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2171-9-4**] 16:12 ------

2171-09-05 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Cough.
   24 Hour Events:
 SPUTUM CULTURE - At [**2171-9-4**] 12:49 PM
   Denies chest pain/pressure. Breathing improved. No abdominal pain.
   Had 2 BM
s yesterday
 constipation resolved.
   Guiac positive stool o/n
 Hct rechecked; stable.
   Some SOB overnight so increased from just nasal cannula to NC plus
   facemask with high flow oxygen neb.
   Productive cough - some reddish color; sent to lab.
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2171-9-4**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2171-9-4**] 04:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 74 (62 - 82) bpm
   BP: 105/54(66) {88/30(45) - 130/98(104)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65 kg (admission): 68.8 kg
             Total In:
                                                                  1,275 mL
                                                                     11 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                     60 mL
                                                                     11 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,065 mL
                                                                    420 mL
   Urine:
                                                                  2,065 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 95%
   ABG: ////
   Physical Examination
   Labs / Radiology
   241 K/uL
   9.5 g/dL
   213 mg/dL
   2.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   133 mg/dL
   90 mEq/L
   138 mEq/L
   30.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2171-9-1**]  04:14 PM
                             [**2171-9-1**]  05:39 PM
                             [**2171-9-1**]  09:03 PM
                             [**2171-9-2**]  04:07 AM
                             [**2171-9-2**]  07:53 PM
                             [**2171-9-2**]  09:24 PM
                             [**2171-9-3**]  03:20 AM
                             [**2171-9-3**]  07:59 PM
                             [**2171-9-4**]  03:01 AM
                             [**2171-9-4**]  04:56 PM
   WBC
   7.1
   7.1
   6.8
   Hct
   29.2
   27.5
   26.7
   30.7
   Plt
   [**Telephone/Fax (3) 10525**]
   Cr
   2.5
   2.4
   2.6
   2.6
   2.5
   2.4
   TropT
   0.06
   TCO2
   29
   29
   Glucose
   171
   159
   199
   234
   91
   151
   Other labs: PT / PTT / INR:12.9/28.0/1.1, CK / CKMB /
   Troponin-T:119/8/0.06, Differential-Neuts:79.9 %, Lymph:12.6 %,
   Mono:7.0 %, Eos:0.3 %, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   [**Age over 90 382**] yo M with a history of dCHF, severe CAD s/p CABG who presents with
   worsening dyspnea on exertion, associated with orthopnea, and lower
   extremity edema. Has had a few episodes of CP/SOB while hospitalized,
   improved with nitro/morphine/Ativan combination at various times.
   .
   # PUMP:  Echo from [**2171-1-27**] showed normal systolic function with
   diastolic dysfunction, echo [**9-2**] showed consistent findings. Patient
   presents with acute exacerbation of chronic diastolic heart failure.
   Potential etiologies include medication non compliance, ischemia,
   infection. Patient has productive cough, though no fevers (Tmax 99.2).
   Good diuresis yesterday & overnight on bumex drip (did not quite meet
   goal of negative 1L, was negative 800mL).
   -Aim for negative 100 cc/hr urine output again
   -Continue Bumex (bumetanide) drip at 0.5mg/hr, uptitrate as needed to
   meet diuresis goal
   -Continue metolazone at 5mg [**Hospital1 **]
   -Continue Imdur at home dose = 90mg daily
   -Continue Nifedipine CR 30mg [**Hospital1 **] (consider switching to hydralazine for
   better afterload reduction)
   -Consider RH cath if no improvement fluid status; not necessary today
   as pt diuresed well on Bumex so will continue with Bumex drip
   -Decrease oxygen as tolerated by patient and based upon SpO2
   -Seeing HCO3 increasing (36 today), likely due to contraction alkalosis
   from diuresis, so add Acetazolamide 250mg PO q12 hours for 2 days, and
   monitor HCO3 daily
   -f/u sputum culture
   .
   # CORONARIES:  Patient has known severe CAD s/p CABG and multiple PCIs.
   Denies CP, or usual anginal symptoms. Dynamic EKG ST changes during
   hypoxic episode [**8-31**] with increased demand, cardiac enzymes flat x3.
   -Continue ASA, Clopidogrel, Carvedilol, Atorvastatin, Imdur
   -Patient has ACEI/[**Last Name (un) 239**] listed as allergy [**12-31**] hyperkalemia
   .
   # RHYTHM:  Currently in NSR, monitor on telemetry.
   .
   # Acute on chronic renal failure: Current Cr elevated from baseline
   1.3, likely [**12-31**] poor forward flow in the setting of acute exacerbation
   of diastolic heart failure. Anticipate ARF will resolve with effective
   diuresis. Cr stable at 2.4 today.
   -Continue diuresis as outlined above
   -Check [**Hospital1 **] electrolytes
   -Follow creatinine
   .
   # Normocytic Anemia: Patient has known chronic anemia at baseline.
   Followed by Heme as outpatient, for Epo injections.   Usually receives
   epo injection on Tuesday for hct <33, per pt report.  Received Epo on
   [**9-4**]. Guiac positive yesterday.
   -Check daily Hct
   .
   #  DM2:  Continue SSI.
   .
   #  Glaucoma: Continue outpatient eye drops
   .
   # Constipation
 resolved; 2 BM
s yesterday:
   - senna and colace standing
   ICU Care
   Nutrition: Cardiac heart healthy/Low sodium/diabetic diet
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2171-8-31**] 03:00 PM
   18 Gauge - [**2171-9-1**] 10:00 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: wife [**Name (NI) 9198**] [**Telephone/Fax (1) 10464**]
   [**Name2 (NI) 66**] status: FULL
   Disposition: CCU
   ------ Protected Section ------
   Attending Progress Note
   I have reviewed the Comprehensive Progress Note by Dr. [**Last Name (STitle) 10454**] today and
   I concur with the history, physical examination, assessment and
   treatment plan.  The physical examination is consistent with mine
   today.    Mr. [**Known lastname 10470**] is a [**Age over 90 382**] year old man with known diastolic heart
   failure who was admitted with an exacerbation of his symptoms.  He is
   s/p CABG on two prior occasions.
   His diuresis slowed over the past 24 hour period although he continues
   on the combination of bumetidine and hydrodiuril for diuresis.  His
   breathing has improved as well and he spent most of the morning is a
   chair but his lungs remain wet by examination.  His creatinine has
   increased from 2.4 to 2.7 over the past 24 hours.  He has also
   developed a mild hypochrolemic metabolic alkalosis.
   Over the next 24 hours, we will continue diuresis as needed to mobilize
   > 1 L net negative.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2171-9-5**] 21:43 ------

2171-09-06 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Tired.
   24 Hour Events:
   Denies chest pain/pressure. Breathing improved. Denies abdominal pain.
   Tired as didn
t sleep well overnight.
   Continues to have productive cough
 beige phlegm with dried blood.
   Sounds upper airway cough, not deep.
   Weaned down to 2L NC oxygen.
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2171-9-5**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2171-9-5**] 05:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-6**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 66 (59 - 74) bpm
   BP: 131/49(70) {95/30(49) - 139/75(83)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.2 kg (admission): 68.8 kg
             Total In:
                                                                    920 mL
                                                                    198 mL
   PO:
                                                                    860 mL
                                                                    180 mL
   TF:
   IVF:
                                                                     60 mL
                                                                     18 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                  1,100 mL
   Urine:
                                                                  2,260 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,340 mL
                                                                   -902 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   GEN: NAD, resting comfortably.
   CV: III/VI SEM RUSB blowing and apical harsh; unchanged.
   PULM: End-expiratory grunt and crackles b/l, improved
   ABD: soft, nt, nd
   EXTR: no pedal edema
   Labs / Radiology
   209 K/uL
   9.6 g/dL
   178 mg/dL
   2.5 mg/dL
   34 mEq/L
   3.3 mEq/L
   138 mg/dL
   91 mEq/L
   137 mEq/L
   30.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2171-9-2**]  04:07 AM
                             [**2171-9-2**]  07:53 PM
                             [**2171-9-2**]  09:24 PM
                             [**2171-9-3**]  03:20 AM
                             [**2171-9-3**]  07:59 PM
                             [**2171-9-4**]  03:01 AM
                             [**2171-9-4**]  04:56 PM
                             [**2171-9-5**]  06:58 AM
                             [**2171-9-5**]  03:49 PM
                             [**2171-9-6**]  03:49 AM
   WBC
   7.1
   7.1
   6.8
   6.6
   5.8
   Hct
   29.2
   27.5
   26.7
   30.7
   30.2
   30.0
   Plt
   [**Telephone/Fax (3) 10542**]41
   209
   Cr
   2.4
   2.6
   2.6
   2.5
   2.4
   2.7
   2.7
   2.5
   TropT
   0.06
   Glucose
   159
   199
   234
   91
   151
   213
   268
   178
   Other labs: PT / PTT / INR:12.9/28.0/1.1, CK / CKMB /
   Troponin-T:119/8/0.06, Differential-Neuts:79.9 %, Lymph:12.6 %,
   Mono:7.0 %, Eos:0.3 %, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   [**Age over 90 382**] yo M with a history of dCHF, severe CAD s/p CABG who presents with
   worsening dyspnea on exertion, associated with orthopnea, and lower
   extremity edema. Has had a few episodes of CP/SOB while hospitalized,
   improved with nitro/morphine/Ativan combination at various times.
   .
   # PUMP:  Echo from [**2171-1-27**] showed normal systolic function with
   diastolic dysfunction, echo [**9-2**] showed consistent findings. Patient
   presents with acute exacerbation of chronic diastolic heart failure.
   Potential etiologies include medication non compliance, ischemia,
   infection. Patient has productive cough, though no fevers (Tmax 99.2).
   Good diuresis yesterday & overnight on bumex drip (negative 1.3L).
   -Aim for negative 1L over next 24 hours
   -Continue Bumex (bumetanide) drip at 0.5mg/hr, uptitrate as needed to
   meet diuresis goal
   -Continue metolazone at 5mg [**Hospital1 **]
   -Continue Imdur at home dose = 90mg daily
   -Continue Nifedipine CR 30mg [**Hospital1 **] (consider switching to hydralazine for
   better afterload reduction)
   -CXR today
   -Continue Acetazolamide 250mg PO q12 hours through today to treat
   contraction alkalosis from diuresis; monitor HCO3 daily
   .
   #RESPIRATORY DISTRESS
 weaned down to 2L NC during last 24 hours, and
   is breathing more comfortably now. Less likely pneumonia as afebrile,
   no leukocytosis; consider pulmonary edema as most likely cause.
   -diuresis as above
   -continue to wean O2 as tolerated
   -f/u sputum culture
   -f/u CXR
   -follow temperature, WBC
   .
   # CORONARIES:  Patient has known severe CAD s/p CABG and multiple PCIs.
   Denies CP, or usual anginal symptoms. Dynamic EKG ST changes during
   hypoxic episode [**8-31**] with increased demand, cardiac enzymes flat x3.
   -Continue ASA, Clopidogrel, Carvedilol, Atorvastatin, Imdur
   -Patient has ACEI/[**Last Name (un) 239**] listed as allergy [**12-31**] hyperkalemia
   .
   # RHYTHM:  Currently in NSR, monitor on telemetry.
   .
   # Acute on chronic renal failure: Current Cr elevated from baseline
   1.3, likely [**12-31**] poor forward flow in the setting of acute exacerbation
   of diastolic heart failure. Anticipate ARF will resolve with effective
   diuresis. Cr relatively stable today.
   -Continue diuresis as outlined above
   -Check [**Hospital1 **] electrolytes
   -Follow Cr
   .
   # Normocytic Anemia: Patient has known chronic anemia at baseline.
   Followed by Heme as outpatient, for Epo injections.   Usually receives
   epo injection on Tuesday for hct <33, per pt report.  Received Epo on
   [**9-4**]. Guiac positive. Hct stable/improved.
   -Check daily Hct
   .
   #  DM2:  Continue SSI.
   .
   #  Glaucoma: Continue outpatient eye drops
   .
   # Diarrhea
 previously constipation; concern for c.diff versus
   overmedication
   - senna standing, colace prn
   - f/u c.diff
   .
   #PT consult
   ICU Care
   Nutrition: Cardiac heart healthy/Low sodium/diabetic diet
   Glycemic Control:  ISS
   Lines:
   2 PIV
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: wife [**Name (NI) 9198**] [**Telephone/Fax (1) 10464**]
   [**Name2 (NI) 66**] status: FULL
   Disposition: CCU
   ------ Protected Section ------
   I have reviewed the Comprehensive Progress Note by Dr. [**Last Name (STitle) 10454**] today and
   I concur with the history, physical examination, and medical decision
   making.  The physical examination is consistent with mine today.
   History:  No additions to Dr. [**Last Name (STitle) 10454**]
   Physical:  No additions to Dr. [**Last Name (STitle) 10454**]
   Medical Decision Making;   Mr. [**Known lastname 10470**] is a [**Age over 90 382**] year old man with known
   diastolic heart failure who was admitted with an exacerbation of his
   symptoms.  He is s/p CABG on two prior occasions.
   With the addition of bumex, metalazone, and Diamox for diuresis, he is
   1.3 L negative over the past 24 hours.  His breathing has improved
   substantially over the past 2 days although he still feels that he is
   weak.  We have encourage Mr. [**Known lastname 10470**] to increase his activity and we
   will try to ambulate his tomorrow.
   Over the next 24 hours, we will continue diuresis as needed to mobilize
   > 1 L net negative.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2171-9-6**] 20:31 ------

2171-09-07 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -C. diff negative
   -Cr improved, CXR with improving pulm edema, continuing to diurese with
   goal -1.5L
   -Sputum cx grew rare GNR
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-9-6**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-7**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 68 (61 - 69) bpm
   BP: 130/44(66) {84/43(59) - 137/64(76)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.9 kg (admission): 68.8 kg
             Total In:
                                                                  1,440 mL
                                                                    166 mL
   PO:
                                                                  1,380 mL
                                                                    150 mL
   TF:
   IVF:
                                                                     60 mL
                                                                     16 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                    650 mL
   Urine:
                                                                  3,570 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,130 mL
                                                                   -484 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 97%
   ABG: ///35/
   Physical Examination
   GEN: NAD, resting comfortably.
   CV: III/VI SEM RUSB blowing and apical harsh; unchanged.
   PULM: End-expiratory grunt and crackles b/l, improved
   ABD: soft, nt, nd
   EXTR: no pedal edema
   Labs / Radiology
   240 K/uL
   10.6 g/dL
   195 mg/dL
   2.3 mg/dL
   35 mEq/L
   3.5 mEq/L
   141 mg/dL
   88 mEq/L
   135 mEq/L
   33.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2171-9-2**]  09:24 PM
                             [**2171-9-3**]  03:20 AM
                             [**2171-9-3**]  07:59 PM
                             [**2171-9-4**]  03:01 AM
                             [**2171-9-4**]  04:56 PM
                             [**2171-9-5**]  06:58 AM
                             [**2171-9-5**]  03:49 PM
                             [**2171-9-6**]  03:49 AM
                             [**2171-9-6**]  04:42 PM
                            [**2171-9-7**]  04:23 AM
   WBC
   7.1
   6.8
   6.6
   5.8
   6.9
   Hct
   27.5
   26.7
   30.7
   30.2
   30.0
   33.6
   Plt
   [**Telephone/Fax (3) 10545**]09
   240
   Cr
   2.6
   2.5
   2.4
   2.7
   2.7
   2.5
   2.4
   2.3
   TropT
   0.06
   Glucose
   [**Telephone/Fax (2) 10546**]3
   268
   178
   195
   Other labs: PT / PTT / INR:12.9/28.0/1.1, CK / CKMB /
   Troponin-T:119/8/0.06, Differential-Neuts:79.9 %, Lymph:12.6 %,
   Mono:7.0 %, Eos:0.3 %, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   [**Age over 90 382**] yo M with a history of dCHF, severe CAD s/p CABG who presents with
   worsening dyspnea on exertion, associated with orthopnea, and lower
   extremity edema. Has had a few episodes of CP/SOB while hospitalized,
   improved with nitro/morphine/Ativan combination at various times.
   Overall has improved with diuresis.
   .
   # PUMP:  Echo from [**2171-1-27**] showed normal systolic function with
   diastolic dysfunction, echo [**9-2**] showed consistent findings. Patient
   presents with acute exacerbation of chronic diastolic heart failure.
   Potential etiologies include medication non compliance, ischemia,
   infection. Patient has productive cough, though no fevers.  Continues
   to diurese well on Bumex gtt.
   -Aim for negative 1L over next 24 hours
   -Continue Bumex (bumetanide) drip at 0.5mg/hr, with uptitration as
   needed to meet diuresis goal
   -Continue metolazone at 5mg [**Hospital1 **]
   -Continue Imdur at home dose = 90mg daily
   -Continue Nifedipine CR 30mg [**Hospital1 **] (consider switching to hydralazine for
   better afterload reduction)
   .
   #RESPIRATORY DISTRESS
 weaned down to 2L NC during last 24 hours, and
   is breathing more comfortably now. Less likely pneumonia as afebrile,
   no leukocytosis; pulmonary edema most likely cause.
   -diuresis as above
   -continue to wean O2 as tolerated
   -f/u sputum culture
   -follow temperature, WBC
   .
   # CORONARIES:  Patient has known severe CAD s/p CABG and multiple PCIs.
   Denies CP, or usual anginal symptoms. Dynamic EKG ST changes during
   hypoxic episode [**8-31**] with increased demand, cardiac enzymes flat x3.
   -Continue ASA, Clopidogrel, Carvedilol, Atorvastatin, Imdur
   -Patient has ACEI/[**Last Name (un) 239**] listed as allergy [**12-31**] hyperkalemia
   .
   # RHYTHM:  Currently in NSR, monitor on telemetry.
   .
   # Acute on chronic renal failure: Current Cr elevated from baseline of
   1.3, however is now downtrending.  Likely [**12-31**] poor forward flow in the
   setting of acute exacerbation of diastolic heart failure. Anticipate
   ARF will resolve with effective diuresis.
   -Continue diuresis as outlined above
   -Check [**Hospital1 **] electrolytes
   -Follow Cr
   .
   # Normocytic Anemia: Patient has known chronic anemia at baseline.
   Followed by Heme as outpatient, for Epo injections.   Usually receives
   epo injection on Tuesday for hct <33, per pt report.  Received Epo on
   [**9-4**]. Guiac positive. Hct stable/improved.
   -Check daily Hct
   .
   #  DM2:  Continue SSI.
   .
   #  Glaucoma: Continue outpatient eye drops
   .
   # Diarrhea
 previously constipation; concern for overmedication, cdiff
   negative.
   .
   #PT consult
   ICU Care
   Nutrition: diabetic/heart healthy
   Glycemic Control:  iss
   Lines:
   20 Gauge - [**2171-9-5**] 04:11 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: famotidine
   VAP:  n/a
   Comments:
   Communication:  Comments: with son, [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 66**] status: full
   Disposition: ccu for now
   ------ Protected Section ------
   I have reviewed the Comprehensive Progress Note by Dr. [**First Name (STitle) 6984**] today and
   I concur with the history, physical examination, and medical decision
   making.  The physical examination is consistent with mine today.
   History:  No additions to Dr. [**First Name (STitle) 6984**]
   Physical:  No additions to Dr. [**First Name (STitle) 6984**]
   Medical Decision Making;   Mr. [**Known lastname 10470**] is a [**Age over 90 382**] year old man with known
   diastolic heart failure who was admitted with an exacerbation of his
   symptoms.  He is s/p CABG on two prior occasions.
   With the addition of bumex, metalazone, and Diamox for diuresis, he is
   negative over 2L over the past 24 hours.
   Although his breathing has improved substantially over the past several
   days, he complains that he is weak and cannot stand and walk.
   We will help Mr. [**Known lastname 10470**] increase his physical activity and ambulation.
   He is now sitting comfortably in a chair.
   Over the next 24 hours, we will continue diuresis as needed to mobilize
   > 1 L net negative.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2171-9-7**] 15:32 ------

2171-09-08 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: CHF
   24 Hour Events:
   -started on 10 glargine qHS
   -unable to transfer to unit on bumex gtt.
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-9-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-8**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 59 (57 - 67) bpm
   BP: 122/52(70) {92/29(50) - 128/78(83)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 59.9 kg (admission): 68.8 kg
             Total In:
                                                                    840 mL
                                                                    218 mL
   PO:
                                                                    780 mL
                                                                    200 mL
   TF:
   IVF:
                                                                     60 mL
                                                                     18 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    750 mL
   Urine:
                                                                  2,950 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,110 mL
                                                                   -532 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   GEN: NAD, resting comfortably.
   CV: III/VI SEM RUSB blowing and apical harsh; unchanged.
   PULM: End-expiratory grunt and crackles b/l, improved
   ABD: soft, nt, nd
   EXTR: no pedal edema
   Labs / Radiology
   240 K/uL
   10.6 g/dL
   195 mg/dL
   2.6 mg/dL
   35 mEq/L
   3.8 mEq/L
   141 mg/dL
   88 mEq/L
   135 mEq/L
   33.6 %
   6.9 K/uL
        [image002.jpg] --labs from [**9-7**], [**9-8**] labs not drawn yet
                             [**2171-9-3**]  03:20 AM
                             [**2171-9-3**]  07:59 PM
                             [**2171-9-4**]  03:01 AM
                             [**2171-9-4**]  04:56 PM
                             [**2171-9-5**]  06:58 AM
                             [**2171-9-5**]  03:49 PM
                             [**2171-9-6**]  03:49 AM
                             [**2171-9-6**]  04:42 PM
                            [**2171-9-7**]  04:23 AM
                            [**2171-9-7**]  03:31 PM
   WBC
   7.1
   6.8
   6.6
   5.8
   6.9
   Hct
   27.5
   26.7
   30.7
   30.2
   30.0
   33.6
   Plt
   [**Telephone/Fax (3) 10545**]09
   240
   Cr
   2.6
   2.5
   2.4
   2.7
   2.7
   2.5
   2.4
   2.3
   2.6
   Glucose
   [**Telephone/Fax (2) 10546**]3
   268
   178
   195
   Other labs: PT / PTT / INR:12.9/28.0/1.1, CK / CKMB /
   Troponin-T:119/8/0.06, Differential-Neuts:79.9 %, Lymph:12.6 %,
   Mono:7.0 %, Eos:0.3 %, Ca++:9.1 mg/dL, Mg++:2.8 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   [**Age over 90 382**] yo M with a history of dCHF, severe CAD s/p CABG who presents with
   worsening dyspnea on exertion, associated with orthopnea, and lower
   extremity edema. Has had a few episodes of CP/SOB while hospitalized,
   improved with nitro/morphine/Ativan combination at various times.
   Overall has improved with diuresis.
   .
   # PUMP:  Echo from [**2171-1-27**] showed normal systolic function with
   diastolic dysfunction, echo [**9-2**] showed consistent findings. Patient
   presents with acute exacerbation of chronic diastolic heart failure.
   Potential etiologies include medication non compliance, ischemia,
   infection. Patient has productive cough, though no fevers.  Will
   transfer to bumex PO today in anticipation of floor transfer
   -continue to aim for -1 L/24 hrs
   -DC bumex gtt today, switch to PO regimen
   -Continue metolazone at 5mg [**Hospital1 **]
   -Continue Imdur at home dose = 90mg daily
   -Continue Nifedipine CR 30mg [**Hospital1 **] (consider switching to hydralazine for
   better afterload reduction)
   .
   #RESPIRATORY DISTRESS
 weaned down to 2L NC during last 24 hours, and
   is breathing more comfortably now.  Does not desat on RA.  Less likely
   pneumonia as afebrile, no leukocytosis; pulmonary edema most likely
   cause.
   -diuresis as above
   -continue to wean O2 as tolerated
   -follow temperature, WBC
   .
   # CORONARIES:  Patient has known severe CAD s/p CABG and multiple PCIs.
   Denies CP, or usual anginal symptoms. Dynamic EKG ST changes during
   hypoxic episode [**8-31**] with increased demand, cardiac enzymes flat x3.
   -Continue ASA, Clopidogrel, Carvedilol, Atorvastatin, Imdur
   -Patient has ACEI/[**Last Name (un) 239**] listed as allergy [**12-31**] hyperkalemia
   .
   # RHYTHM:  Currently in NSR, monitor on telemetry.
   .
   # Acute on chronic renal failure: Current Cr elevated from baseline of
   1.3, however with slight bump yesterday.  Likely [**12-31**] poor forward flow
   in the setting of acute exacerbation of diastolic heart failure,
   however will obtain urine lytes today given recent bump.
   -Continue diuresis as outlined above
   -Check [**Hospital1 **] electrolytes
   -FeUrea today
   -Follow Cr
   .
   # Normocytic Anemia: Patient has known chronic anemia at baseline.
   Followed by Heme as outpatient, for Epo injections.   Usually receives
   epo injection on Tuesday for hct <33, per pt report.  Received Epo on
   [**9-4**]. Guiac positive. Hct stable/improved.
   -Check daily Hct
   .
   #  DM2:  Continue SSI.  Glargine added last night with some improvement
   in fingersticks.  Will re-check insulin requirements today and re-dose
   as indicated.
   .
   #  Glaucoma: Continue outpatient eye drops
   .
   # Diarrhea
 previously constipation; concern for overmedication, cdiff
   negative.
   .
   #PT consult pending
   ICU Care
   Nutrition: diabetic, heart healthy
   Glycemic Control:  glargine +ISS
   Lines:
   20 Gauge - [**2171-9-5**] 04:11 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments: wife [**Name (NI) 9198**] [**Telephone/Fax (1) 10464**]
   [**Name2 (NI) 66**] status: Full
   Disposition: to floor
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the Comprehensive Progress Note by Dr. [**First Name (STitle) 6984**] today and
   I concur with the history, physical examination, assessment and plan.
   I was present during the entire physical examination with the
   housestaff.
   History:  No additions to Dr. [**First Name (STitle) 6984**]
s note.
   Physical:  No additions to Dr. [**First Name (STitle) 6984**]
s note.   There are still left
   lower lobe rales this AM.
   Medical Decision Making;   Mr. [**Known lastname 10470**] is a [**Age over 90 382**] year old man with known
   diastolic heart failure who was admitted with an exacerbation of his
   symptoms.  He is s/p CABG on two prior occasions.
   With the addition of bumex, metalazone, and Diamox for diuresis, he is
   negative over 2L again over the past 24 hours.
   His breathing has continued to improve substantially over the past
   several days.  His only complaint is that of weakness and he reports
   that he is weak and cannot stand and walk.  We will work on his
   ambulation today.
   Over the next 24 hours, we will continue transition his diuretics to
   oral Bumex and metalozone.   We will add IV furosemide as needed to
   diuresis an addition 1 L net negative today.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2171-9-8**] 13:54 ------

2171-09-09 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: CHF
   24 Hour Events:
   -pt walked with nursing last night
   -no CP or SOB o/n
   Allergies:
   Indomethacin
   GIB;
   Ace Inhibitors
   HYPERKALEMIA;
   Anti-Inflam/Antiarth Agents Misc. Classf
   GIB;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2171-9-8**] 08:00 AM
   Furosemide (Lasix) - [**2171-9-8**] 12:35 PM
   Heparin Sodium (Prophylaxis) - [**2171-9-8**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-9-9**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 55 (55 - 69) bpm
   BP: 107/46(61) {96/38(51) - 131/90(97)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 57.1 kg (admission): 68.8 kg
                  Total In:
                                                                  1,578 mL
                  PO:
                                                                  1,500 mL
                  TF:
   IVF:
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    630 mL
   Urine:
                                                                  2,020 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -442 mL
                                                                   -630 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///35/
   Physical Examination
   GEN: NAD, resting comfortably.
   CV: III/VI SEM RUSB blowing and apical harsh; unchanged.
   PULM: End-expiratory grunt and crackles b/l, improved
   ABD: soft, nt, nd
   EXTR: no pedal edema
   Labs / Radiology
   310 K/uL
   11.5 g/dL
   135 mg/dL
   2.6 mg/dL
   36 mEq/L
   3.3 mEq/L
   153 mg/dL
   85 mEq/L
   135 mEq/L
   36.2 %
   8.3 K/uL
        [image002.jpg]
                             [**2171-9-4**]  04:56 PM
                             [**2171-9-5**]  06:58 AM
                             [**2171-9-5**]  03:49 PM
                             [**2171-9-6**]  03:49 AM
                             [**2171-9-6**]  04:42 PM
                            [**2171-9-7**]  04:23 AM
                            [**2171-9-7**]  03:31 PM
                            [**2171-9-8**]  07:20 AM
                            [**2171-9-8**]  05:00 PM
                            [**2171-9-9**]  05:32 AM
   WBC
   6.6
   5.8
   6.9
   6.4
   8.3
   Hct
   30.7
   30.2
   30.0
   33.6
   36.1
   36.2
   Plt
   241
   209
   240
   271
   310
   Cr
   2.7
   2.7
   2.5
   2.4
   2.3
   2.6
   2.3
   2.6
   Glucose
   [**Telephone/Fax (3) 10557**]95
   184
   Other labs: PT / PTT / INR:12.9/28.0/1.1, CK / CKMB /
   Troponin-T:119/8/0.06, Differential-Neuts:79.9 %, Lymph:12.6 %,
   Mono:7.0 %, Eos:0.3 %, Ca++:9.3 mg/dL, Mg++:2.6 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   [**Age over 90 382**] yo M with a history of dCHF, severe CAD s/p CABG who presents with
   worsening dyspnea on exertion, associated with orthopnea, and lower
   extremity edema. Has had a few episodes of CP/SOB while hospitalized,
   improved with nitro/morphine/Ativan combination at various times.
   Overall has improved with diuresis.
   .
   # PUMP:  Echo from [**2171-1-27**] showed normal systolic function with
   diastolic dysfunction, echo [**9-2**] was consistent with this diagnosis.
   Patient presents with acute exacerbation of chronic diastolic heart
   failure. Potential etiologies include medication non compliance,
   ischemia, infection. Patient has productive cough, though no fevers.
   Transitioned to PO Bumex yesterday however UOP not as high as on gtt
   and required add
l dose of diuril
   -aim for even is and os today
   -Continue PO Bumex po, ad diuril as needed for diuresis
   -Continue metolazone at 5mg [**Hospital1 **]
   -Continue Imdur at home dose = 90mg daily
   -Continue Nifedipine CR 30mg [**Hospital1 **] (consider switching to hydralazine for
   better afterload reduction)
   .
   #RESPIRATORY DISTRESS
 weaned down to 2L NC during last 24 hours, and
   is breathing more comfortably now.  Does not desat on RA.  Less likely
   pneumonia as afebrile, no leukocytosis; pulmonary edema most likely
   cause.
   -diuresis as above
   -continue to wean O2 as tolerated
   -follow temperature, WBC
   -IS today
   -PT today
   .
   # CORONARIES:  Patient has known severe CAD s/p CABG and multiple PCIs.
   Denies CP, or usual anginal symptoms. Dynamic EKG ST changes during
   hypoxic episode [**8-31**] with increased demand, cardiac enzymes flat x3.
   -Continue ASA, Clopidogrel, Carvedilol, Atorvastatin, Imdur
   -Patient has ACEI/[**Last Name (un) 239**] listed as allergy [**12-31**] hyperkalemia
   .
   # RHYTHM:  Currently in NSR, monitor on telemetry.
   .
   # Acute on chronic renal failure: Current Cr elevated from baseline of
   1.3.  FeUrea suggests pre-renal etiology.
   -Maintain even Is and os
   -Check [**Hospital1 **] electrolytes while diuresing
   -Follow Cr
   .
   # Normocytic Anemia: Patient has known chronic anemia at baseline.
   Followed by Heme as outpatient, for Epo injections.   Usually receives
   epo injection on Tuesday for hct <33, per pt report.  Received Epo on
   [**9-4**]. Guiac positive. Hct improved.
   -Check daily Hct
   .
   #  DM2:  Continue SSI and glargine
   .
   #  Glaucoma: Continue outpatient eye drops
   .
   # Diarrhea
 previously constipation; concern for overmedication, cdiff
   negative.
   .
   #PT: PT consulted, Nursing to exercise in the interim
   ICU Care
   Nutrition: Diabetic, heart healthy
   0Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2171-9-5**] 04:11 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with wife
   [**Name (NI) 66**] status:  full
   Disposition: to floor today
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the Comprehensive Progress Note by Dr. [**First Name (STitle) 6984**] today and
   I concur with the history, physical examination, assessment and plan.
   I was present during the entire physical examination with the
   housestaff.
   History:  No additions to Dr. [**First Name (STitle) 6984**]
s note.
   Physical:  No additions to Dr. [**First Name (STitle) 6984**]
s note.
   Medical Decision Making;   Mr. [**Known lastname 10470**] is a [**Age over 90 382**] year old man with known
   diastolic heart failure who was admitted with an exacerbation of his
   symptoms.  He is s/p CABG on two prior occasions.
   With the addition of bumex, metalazone, and Diamox for diuresis, he is
   negative just over 600 cc again over the past 24 hours.
   His breathing has continued to improve substantially over the past
   several days.  He is largely on room air with saturations > 95%.   He
   walked with assistance last night.
   We are transitioning him over to oral diuretics and will move Mr.
   [**Known lastname 10470**] to the floor later today.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2171-9-9**] 12:28 ------